US05885999
c) N-Phenyl-1-t-butoxycarbonylpiperidine-4-methylamine
Borane-tetrahydrofuran complex (1.0M in tetrahydrofuran, 57 mL, 57 mmol) was added to a stirred, cooled (0° C.) solution N-phenyl-1-t-butoxycarbonylpiperidine-4-carboxamide (5.78 g, 19 mmol) in tetrahydrofuran (95 mL) and the mixture was stirred at room temperature for 18 h. Methanol (10 mL) was added and the solvent was evaporated under reduced pressure. Potassium carbonate (13.13 g, 95 mmol) and methanol (150 mL) were added and the mixture was heated under reflux for 1 h. The mixture was cooled and the solvent was evaporated under reduced pressure. Water (100 mL) was added and the mixture was extracted with dichloromethane (3×100 mL). The combined organic fractions were dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with EtOAc/Hexane (20:80) to give the title compound as a colorless solid (5.08 g, 92%), δH (250 MHz, CDCl3) 7.18 (2H, t, J 7.6 Hz), 6.69 (1H, t, J 7.6 Hz), 6.59 (2H, d, J 7.6 Hz), 4.14 (2H, m), 3.73 (1H, br s), 3.03 (2H, d, J 6.2 Hz), 2.69 (2H, m), 1.79-1.55 (3H, m), 1.46 (9H, s), and 1.20 (2H, m).

reactant | Borane tetrahydrofuran | 57 mmol, 1.0M, 57 mL | B.O1CCCC1
reactant | N-phenyl-1-t-butoxycarbonylpiperidine-4-carboxamide | 19 mmol, 5.78 g | C1(=CC=CC=C1)NC(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C17H24N2O3
reactant | Methanol | 10 mL | CO | CH4O
reactant | Potassium carbonate | 95 mmol, 13.13 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 150 mL | CO | CH4O
solvent | tetrahydrofuran | 95 mL | O1CCCC1 | C4H8O
product | N-Phenyl-1-t-butoxycarbonylpiperidine-4-methylamine | 5.08 g, 92% | C1(=CC=CC=C1)NCC1CCN(CC1)C(=O)OC(C)(C)C | C17H26N2O2
